US05849755
b) 3-(5-Chloro-2-methoxybenzamido)-7-methylchroman-4-ol
0.5 g (12.5 mmol) of sodium borohydride was introduced into a suspension of 8.65 g (25 mmol) of 3-(5-chloro-2-methoxybenzamido)-7-methyl-4-chromanone in 40 ml of ethanol. During stirring at 30°-40° C. for 2 hours, the solid dissolved. The solution was then cooled, introduced into ice/water and acidified to pH 1-2 with dilute hydrochloric acid. The precipitate was filtered off with suction, washed with water, dried and recrystallized from ethanol. The resulting 3-(5-chloro-2-methoxybenzamido)-7-methylchroman-4-ol (diastereomer mixture) had a melting point of 151°-152° C.

reactant | sodium borohydride | 12.5 mmol, 0.5 g | [BH4-].[Na+]
reactant | 3-(5-chloro-2-methoxybenzamido)-7-methyl-4-chromanone | 25 mmol, 8.65 g | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=CC=C3C2=O)C)C1)OC | C18H16ClNO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(5-Chloro-2-methoxybenzamido)-7-methylchroman-4-ol | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=CC=C3C2O)C)C1)OC | C18H18ClNO4
